US04791124
To a stirred suspension of Lawesson's Reagent (2.3 g, 0.0057 mole) in approximately 40 ml of toluene was added a mixture of N-[2-(5-methylthienyl)-2-oxoethyl]-4-trifluoromethylbenzamide (3.0 g, 0.011 mole) in toluene (35 ml). After complete addition the reaction mixture was heated at reflux for approximately four hours, then was allowed to cool to room temperature and stirred for two days. The solvent was removed from the reaction mixture by evaporation under reduced pressure, leaving an oil. The oil was dissolved in a small amount of methylene chloride and purified by column chromatography on silica gel, eluting with methylene chloride, yielding 1.0 g of 5-(5-methylthien-2-yl)-2-(4-trifluoromethylphenyl)thiazole as a solid, m.p. 150°-152° C.

reactant | Lawesson's Reagent | 0.0057 mole, 2.3 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | N-[2-(5-methylthienyl)-2-oxoethyl]-4-trifluoromethylbenzamide | 0.011 mole, 3.0 g | CC1=CC=C(S1)C(CNC(C1=CC=C(C=C1)C(F)(F)F)=O)=O | C15H12F3NO2S
solvent | toluene | approximately 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-(5-methylthien-2-yl)-2-(4-trifluoromethylphenyl)thiazole | 1.0 g | CC1=CC=C(S1)C1=CN=C(S1)C1=CC=C(C=C1)C(F)(F)F | C15H10F3NS2
